US06303593B1
1-(2-Chloro-3-pyridylcarbonyl)-3-(RS)-(4-(4-fluorophenyl)piperidinylmethyl)-4-(RS)-(3-thienyl)pyrrolidine.
A mixture of 0.105 g (0.3 mmol) of 3-(RS)-(4-(4-fluorophenyl)piperidinylmethyl)-4-(RS)-(3-thienyl)pyrrolidine, 0.082 mL (0.6 mmol) of triethylamine and 0.054 g (0.3 mmol) of 2-chloronicotinoyl chloride (Aldrich) in 6 mL of CH2Cl2 was stirred at rt for 4 h. The reaction mixture was concentrated and the residue was purified by chomatography (silica, hexanes: acetone=3:1) to afford 0.12 g of the title compound.

reactant | 3-(RS)-(4-(4-fluorophenyl)piperidinylmethyl)-4-(RS)-(3-thienyl)pyrrolidine | 0.3 mmol, 0.105 g | FC1=CC=C(C=C1)C1CCN(CC1)CC1CNCC1C1=CSC=C1 | C20H25FN2S
reactant | triethylamine | 0.6 mmol, 0.082 mL | C(C)N(CC)CC | C6H15N
reactant | 2-chloronicotinoyl chloride | 0.3 mmol, 0.054 g | ClC1=C(C(=O)Cl)C=CC=N1 | C6H3Cl2NO
solvent | CH2Cl2 | 6 mL | C(Cl)Cl | CH2Cl2
product | 1-(2-Chloro-3-pyridylcarbonyl)-3-(RS)-(4-(4-fluorophenyl)piperidinylmethyl)-4-(RS)-(3-thienyl)pyrrolidine | 0.12 g | ClC1=NC=CC=C1C(=O)N1CC(C(C1)C1=CSC=C1)CN1CCC(CC1)C1=CC=C(C=C1)F | C26H27ClFN3OS
